US07872031B2
A solution of 2,3-di(2-methanesulfonyloxyethyl)furan (114 mmol) in dioxane (168 mL) is treated with potassium carbonate (337 mmol) and benzyl amine (70.1 mmol) and heated to 102° C. for 18 hours. The reaction is cooled, the precipitate removed by filtration, and the mother liquor concentrated to give a crude oil which is purified by silica chromatography (EtOAc/hexanes eluant) to provide 6-benzyl-5,6,7,8-tetrahydro-4H-furo[3,2-d]azepine.

reactant | 2,3-di(2-methanesulfonyloxyethyl)furan | 114 mmol | CS(=O)(=O)OCCC=1OC=CC1CCOS(=O)(=O)C | C10H16O7S2
reactant | potassium carbonate | 337 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl amine | 70.1 mmol | C(C1=CC=CC=C1)N | C7H9N
solvent | dioxane | 168 mL | O1CCOCC1 | C4H8O2
product | 6-benzyl-5,6,7,8-tetrahydro-4H-furo[3,2-d]azepine | C(C1=CC=CC=C1)N1CCC2=C(CC1)OC=C2 | C15H17NO
